US08202863B2
To a solution of C-(3-cyano-phenyl)-N-methyl-methanesulfonamide (42 mg, 0.2 mmol) in THF (4 mL) is added a solution of BH3−THF in THF (1 M, 1 mL). The mixture is sealed and heated in a microwave reactor at 100° C. for 120 seconds. The mixture is poured into 1 M HCl (20 mL), basified with 3 M NaOH to pH ˜10, extracted with DCM (2×50 mL), dried with Na2SO4, filtered, and concentrated in vacuo to afford C-(3-aminomethyl-phenyl)-N-methyl-methanesulfonamide, which is used directly in the next without further purification.

reactant | C-(3-cyano-phenyl)-N-methyl-methanesulfonamide | 0.2 mmol, 42 mg | C(#N)C=1C=C(C=CC1)CS(=O)(=O)NC | C9H10N2O2S
reactant | BH3−THF | B.C1CCOC1
reactant | HCl | 1 M, 20 mL | Cl | ClH
reactant | NaOH | 3 M | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 1 mL | C1CCOC1 | C4H8O
product | C-(3-aminomethyl-phenyl)-N-methyl-methanesulfonamide | NCC=1C=C(C=CC1)CS(=O)(=O)NC | C9H14N2O2S
